US04018824
When 1-(iso-propyl)-3-azetidinol and 2-allyloxyphenol were reacted in the same manner as in Example 6, 1-(2-allyloxyphenoxy)-3-(iso-propylamino)-2-propanol melting at 76°-79° C was obtained. The yield was 48%.

reactant | 1-(iso-propyl)-3-azetidinol | C(C)(C)N1CC(C1)O | C6H13NO
reactant | 2-allyloxyphenol | C(C=C)OC1=C(C=CC=C1)O | C9H10O2
product | 1-(2-allyloxyphenoxy)-3-(iso-propylamino)-2-propanol | yield was 48% | C(C=C)OC1=C(OCC(CNC(C)C)O)C=CC=C1 | C15H23NO3
